US06080754
5-Benzyloxy-2-n-propylpyridine (50.15 g, 221 mmol) and 4-benzyloxyphenacylbromide (67.34 g, 221 mmol) was dissolved in 400 ml of dry acetone under a nitrogen atmosphere. The mixture was heated to reflux for 5 days. The reaction was cooled to room temperature and the solvent was removed. The remaining quaternary salt was suspended in 250 ml of water and 250 ml of diethyl ether and filtered off. The dried salt was suspended in 600 ml of water and sodium hydrogen carbonate (74 g, 884 mmol) was added. The mixture was refluxed for 3 days. The resulting precipitate was filtered off, washed with water and dried to afford 75.38 g (78%) of 6-benzyloxy-2-(4-benzyloxyphenyl)-1-ethylindolizine as brown crystals. 1H-NMR (DMSO-d6, 200 MHz) δ: 1.10 (t, 3H); 2.79 (q, 2H); 5.02 (s, 2H); 5.12 (s, 2H); 6.52 (dd, 1H); 7.08 (d, 2H); 7.29-7.51 (m, 14H); 7.96 (s, 1H).

reactant | 5-Benzyloxy-2-n-propylpyridine | 221 mmol, 50.15 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CCC | C15H17NO
reactant | 4-benzyloxyphenacylbromide | 221 mmol, 67.34 g | C(C1=CC=CC=C1)OC1=CC=C(C(CBr)=O)C=C1 | C15H13BrO2
reactant | sodium hydrogen carbonate | 884 mmol, 74 g | C(O)([O-])=O.[Na+]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | 6-benzyloxy-2-(4-benzyloxyphenyl)-1-ethylindolizine | 75.38 g, 78% | C(C1=CC=CC=C1)OC1=CN2C=C(C(=C2C=C1)CC)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H27NO2
